US04062952
1.68 G. of 4-fluoro-6-phenyl-1,3-benzenedisulfonamide and 3.1 g. of furfurylamine is heated to 95° C. for 1 1/2 hours. This mixture is cooled in ice, diluted with 30 ml. of ice water and acidified with acetic acid affording a brown precipitate of 4-furfurylamino-6-phenyl-1,3-benzenedisulfonamide which is collected by filtration and dried affording 2.14 g. of material with a m.p. of 168° to 171° C. This material is stirred with 22 ml. of trifluoroacetic acid at room temperature for 1 hour. The trifluoroacetic acid is removed in vacuo and the residue treated with 100 ml. of water and extracted with ethylacetate. The ethylacetate is dried and evaporated to dryness in vacuo affording 2.6 g. of material which is purified on a chromatography column of silica gel affording 1.6 g. of a light foam. This material is crystallized from water affording 4-amino-6-phenyl-1,3-benzenedisulfonamide with a m.p. of 197° to 198° C.

reactant | 4-fluoro-6-phenyl-1,3-benzenedisulfonamide | FC1=C(C=C(C(=C1)C1=CC=CC=C1)S(=O)(=O)N)S(=O)(=O)N | C12H11FN2O4S2
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
reactant | 4-furfurylamino-6-phenyl-1,3-benzenedisulfonamide | C(C1=CC=CO1)NC1=C(C=C(C(=C1)C1=CC=CC=C1)S(=O)(=O)N)S(=O)(=O)N | C17H17N3O5S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-amino-6-phenyl-1,3-benzenedisulfonamide | NC1=C(C=C(C(=C1)C1=CC=CC=C1)S(=O)(=O)N)S(=O)(=O)N | C12H13N3O4S2
